US04289711
(±) Trans Ethyl 3-(β,β-Dichloro-α-Hydroxyethyl)-2,2-Dimethylcyclopropane-1-Carboxylate
Aluminium isopropoxide (0.97 g, 0.005 M) and (±) trans ethyl 3-dichloroacetyl-2,2-dimethylcyclopropane-1-carboxylate (1.0 g, 0.004 M) were refluxed in isopropanol (6.0 ml) for 16 hours. On cooling, the mixture was poured into 2 N hydrochloric acid (50 ml) and then extracted with ether (3×30 ml). The combined organic layers were extracted with water (2×50 ml), dried and evaporated in vacuo to yield a colourless oil. This product was identical (n.m.r. and i.r. spectra and g.l.c.) to the title product obtained from the sodium borohydride reduction described above in Example 3.

reactant | Aluminium isopropoxide | 0.005 M, 0.97 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | (±) trans ethyl 3-dichloroacetyl-2,2-dimethylcyclopropane-1-carboxylate | 0.004 M, 1.0 g | ClC(C(=O)[C@@H]1C([C@H]1C(=O)OCC)(C)C)Cl | C10H14Cl2O3
reactant | hydrochloric acid | 2 N, 50 ml | Cl | ClH
solvent | isopropanol | 6.0 ml | C(C)(C)O | C3H8O
product | (±) Trans Ethyl 3-(β,β-Dichloro-α-Hydroxyethyl)-2,2-Dimethylcyclopropane-1-Carboxylate | ClC(C(O)[C@@H]1C([C@H]1C(=O)OCC)(C)C)Cl | C10H16Cl2O3
